US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]pyrazine-2-carboxamide
5-Chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (271 mg, 0.70 mmol) was added in one portion to a 3:1 mixture of (2R,6S)-1,2,6-trimethylpiperazine and 2-[(2S,6R)-2,6-dimethylpiperazin-1-yl]acetonitrile (180 mg, 1.40 mmol) in anhydrous dimethylsulfoxide (1.40 ml) at 25° C. The resulting solution was stirred at ambient temperature for 2 h. The reaction was incomplete and N-ethyl-N-propan-2-ylpropan-2-amine (0.24 ml, 1.40 mmol) was added and the solution was stirred at 60° C. for a further 2 h. The reaction mixture was diluted with methanol (20 mL) and purified by ion exchange chromatography, using an SCX column. The desired product was eluted from the column using 7M NH3/MeOH to afford impure material. The concentrated eluent was purified by silica column chromatography, eluting with a gradient of 0 to 5% 7M NH3/MeOH in DCM. Pure fractions were evaporated to dryness to afford the title compound (246 mg, 73%) as a yellow solid.

reactant | 5-Chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 0.70 mmol, 271 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
reactant | (2R,6S)-1,2,6-trimethylpiperazine | CN1[C@@H](CNC[C@@H]1C)C | C7H16N2
reactant | 2-[(2S,6R)-2,6-dimethylpiperazin-1-yl]acetonitrile | 1.40 mmol, 180 mg | C[C@@H]1N([C@@H](CNC1)C)CC#N | C8H15N3
reactant | N-ethyl-N-propan-2-ylpropan-2-amine | 1.40 mmol, 0.24 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylsulfoxide | 1.40 ml | CS(=O)C | C2H6OS
solvent | methanol | 20 mL | CO | CH4O
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]pyrazine-2-carboxamide | 246 mg, 73% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)N1C[C@H](N([C@H](C1)C)C)C | C25H33N7O3
